US06727264B1
N-[3-(1-{3-[2-(2-BROMOPHENYL)-1H-INDOL-3-YL]PROPYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE:
Prepared by Procedure E and Scheme M using N-(3-{1-[5-(2-bromophenyl)-5-oxopentyl]-4-piperidinyl}phenyl)-2-methylpropanamide and phenylhydrazine: ESMS m/e: 557.9 (M+H)+.

reactant | N-(3-{1-[5-(2-bromophenyl)-5-oxopentyl]-4-piperidinyl}phenyl)-2-methylpropanamide | BrC1=C(C=CC=C1)C(CCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)=O | C26H33BrN2O2
reactant | phenylhydrazine | C1(=CC=CC=C1)NN | C6H8N2
product | N-[3-(1-{3-[2-(2-BROMOPHENYL)-1H-INDOL-3-YL]PROPYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE | BrC1=C(C=CC=C1)C=1NC2=CC=CC=C2C1CCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C32H36BrN3O
